US05514680
Preparation of 6-Chloro-7-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione
A mixture of 3,4-diamino-6-chlorobenzotrifluoride (185 mg, 0.88 mmol) and oxalic acid dihydrate (117 mg, 0.93 mmol, used as received) in 2N HCl (4 mL) was refluxed at 170°-5° C. for 3 h, then cooled to room temperature. The mixture was centrifuged and the liquid layer was removed. The yellow solid was washed twice by cold water (2×2 mL), collected by filtration, and dried at 60° C. with reduced pressure for 2 h, affording 180 mg of crude title compound (77.3%) as a light yellow powder. The crude product was dissolved in 1N NaOH (6 mL) and filtered. The filtrate was acidified to pH=6, affording 138 mg of title compound. It was recrystallized from DMSO/H2O twice to give 102 mg of pure compound (43.9%) as yellow microcrystals. mp:>360° C. (dec. from 295° C.). IR (KBr, cm-1) 3425, 3200, 1731, 1706, 1625; 1400. 1H NMR (DMSO-d6): δ7.274 (s, 1H); 7.478 (s, 1H); 12.145 (s, 2H). HRMS: calcd for C9H4ClF3N2O2 (M+) m/z: 263.9912; found: 263.9919.

reactant | 3,4-diamino-6-chlorobenzotrifluoride | 0.88 mmol, 185 mg | NC=1C=C(C(=CC1N)Cl)C(F)(F)F | C7H6ClF3N2
reactant | oxalic acid dihydrate | 0.93 mmol, 117 mg | O.O.C(C(=O)O)(=O)O
solvent | HCl | 2N, 4 mL | Cl | ClH
solvent | NaOH | 1N, 6 mL | [OH-].[Na+]
product | 6-Chloro-7-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione | 138 mg | ClC=1C=C2NC(C(NC2=CC1C(F)(F)F)=O)=O | C9H4ClF3N2O2
